US08664207B2
4) (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-2-((4-Pyridin-2yl)-benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one
A suspension of (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one (140 mg, 0.61 mmol), 2-(4-(chloromethyl)phenyl)pyridine (0.12 g, 0.61 mmol) and cesium carbonate (400 mg, 1.22 mmol) in anhydrous DMF is stirred at room temperature overnight. The mixture is filtered through a 0.2 μL microfilter. The filtrate is purified by a semi-preparative HPLC to give 41 mg of pure product as off white solids. MS (ESI) m/z 398.2 [M+H]+.

reactant | (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one | 0.61 mmol, 140 mg | CN1C=2N(C=3C(C1=O)=CNC3)[C@@H]3[C@H](N2)CCC3 | C12H14N4O
reactant | 2-(4-(chloromethyl)phenyl)pyridine | 0.61 mmol, 0.12 g | ClCC1=CC=C(C=C1)C1=NC=CC=C1 | C12H10ClN
reactant | cesium carbonate | 1.22 mmol, 400 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
product | (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-2-((4-Pyridin-2yl)-benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one | 41 mg | CN1C=2N(C=3C(C1=O)=CN(C3)CC3=CC=C(C=C3)C3=NC=CC=C3)[C@@H]3[C@H](N2)CCC3 | C24H23N5O
